US06258854B1
Synthesis of Hydroxy-acetic acid 2-oxo-2-phenyl-ethyl ester
A mixture of 7.61 g of glycolic acid, 19.90 g of phenacylbromide and 13.9 ml of triethylamine in 300 ml of ethyl acetate was stirred for 20 hours at room temperature. Then, the mixture was filtered. The filtrate was washed with 2N HCl, saturated sodium bicarbonate, and brine. Then, the filtrate was dried, filtered again, and evaporated to dryness. The resulting white solid was purified by recrystallization to yield 11.85 g of colorless crystals.

reactant | glycolic acid | 7.61 g | C(CO)(=O)O | C2H4O3
reactant | phenacylbromide | 19.90 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | triethylamine | 13.9 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Hydroxy-acetic acid 2-oxo-2-phenyl-ethyl ester | 11.85 g | O=C(COC(CO)=O)C1=CC=CC=C1 | C10H10O4
